Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
unknown antibiotic
 
Attending: ___
 
Chief Complaint:
SOB, Chest Pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS  
___ man with no significant hx who presents with SOB and chest
pain, found to have multiple PEs. 

The patient reports that two days ago he developed SOB. He 
cannot
remember exactly when it came on, but it was not present 3 days
ago. He says it was constantly present but was worsened by
climbing the stairs. AT the same time he had chest pain, worst 
on
the R, that was worsened by deep breaths. Nothing alleviated the
pain. Since arrival in the ED, he says the chest pain is 
resolved
and he is now having pain in the muscles in his R lower
back/waist with deep breaths. 

He does not know what brought on the pain: no injuries, no 
recent
infections, denies fevers/chills, n/v, abd pain. He came in last
night because a friend called ___ after he told her he was
SOB/tired. He has not had surgery since the ___, has no hx of
clots, no recent travel, denies any leg swelling. He has never
had sx like this before. Of note, he works as a ___ and is typically in the car for 6hrs daily. He has 
not
had a colonoscopy and has not seen a doctor for any other cancer
screening. He denies weight loss, night sweats, 

Also notable, he drinks "60 oz" of beer daily, has not had a
drink for the past two days, has almost never gone more than 2
days without drinking, but denies withdrawal or complications
thereof including blackouts/seizures. He is a nonsmoker and does
not have DOE at baseline.

In the ED:
Pt was stable, exam notable for: 
Shortness of breath, otherwise normal. 

Labs were notable for: 
CBC with WBC 15.9, BMP unremarkable. D-dimer 6621. Trop 
negative,
BNP 242.

Imaging notable for
CXR with a L pleural effusion and associated atelectasis. 
CTPE with multiple PEs present in subsegmental arteries of ___
lobes; likely resultant atelectasis but cannot exclude pulmonary
infarct; bilateral effusion L>R. 

ECG: Sinus tach (120), axis nl, intervals normal, no ST
elevation, T in precordial leads with J-point elevation. 

Interventions:
Patient was started on a heparin drip. 

 
Past Medical History:
MEDICAL & SURGICAL HISTORY:  
Minimal interaction with medical care 
Cellulitis on shoulder ___ yr ago, seen in urgent care in 
___
Describes GERD sx
Has had knee surgeries in ___ (mostly on R)
 
Social History:
___
Family History:
FAMILY HISTORY:  
Mother died of ovarian cancer at age ___
Father died of MI at age ___ (reports multiple relatives with MI 
at young age on father's side)
No siblings
 
Physical Exam:
PHYSICAL EXAM:  
General: Lying in bed, breathing comfortably, in no apparent 
distress. 
HEENT: Normocephalic, atraumatic, PERRL, EOMI, moist mucus 
membranes.
Neck: No cervical or supraclavicular lymphadenopathy. 
Lungs: Breathing comfortably on room air at rest, lungs clear to 
auscultation bilaterally. 
CV: Regular rate and rhythm, ___ systolic murmur best at RUSB. 
GI: Obese, soft, non-distended, non-tender to palpation. No 
hepatosplenomegaly appreciated. 
Ext: Warm, well-perfused. No cyanosis. 1+ pitting edema to knee 
on R leg, none on left. Leg not warm, not tender to palpation. 
Neuro: Alert, orientedx3. Readily recalls and discusses events 
remote and recent. CN II-XII intact. Strength ___ and symmetric 
throughout. Sensation intact to light touch in hands and feet. 
Psych: Odd communication style; slightly childish affect. Mood 
not depressed.  

 
Pertinent Results:
==============
Admission Labs
==============
___ 01:45AM BLOOD WBC-15.9* RBC-4.44* Hgb-14.6 Hct-41.8 
MCV-94 MCH-32.9* MCHC-34.9 RDW-11.9 RDWSD-41.0 Plt ___
___ 01:45AM BLOOD Neuts-83.9* Lymphs-8.0* Monos-7.5 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-13.35* AbsLymp-1.27 
AbsMono-1.19* AbsEos-0.00* AbsBaso-0.03
___ 03:22PM BLOOD ___ PTT-47.5* ___
___ 05:13AM BLOOD D-Dimer-6621*
___ 01:45AM BLOOD Glucose-120* UreaN-13 Creat-0.8 Na-138 
K-4.2 Cl-99 HCO3-21* AnGap-18
___ 01:45AM BLOOD ALT-11 AST-18 LD(LDH)-281* AlkPhos-74 
TotBili-0.4
___ 03:22PM BLOOD cTropnT-<0.01
___ 01:45AM BLOOD cTropnT-<0.01
___ 01:45AM BLOOD proBNP-242*
___ 01:45AM BLOOD Albumin-3.7 Calcium-8.9
___ 03:49AM BLOOD Lactate-1.3

==========================
Notable labs during stay
==========================
___ 03:22PM BLOOD cTropnT-<0.01
___ 01:45AM BLOOD cTropnT-<0.01
___ 01:45AM BLOOD proBNP-242*
___ 05:13AM BLOOD D-Dimer-6621*
___ 01:43PM BLOOD %HbA1c-4.9 eAG-94
___ 1:30 am BLOOD CULTURE
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___: 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         OF TWO COLONIAL MORPHOLOGIES. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 
   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT
      0150. 
      GRAM POSITIVE COCCI IN CLUSTERS. 
   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN CLUSTERS. 
___ 7:50  URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 
___ 11:30 am BLOOD CULTURE      #1. 
   Blood Culture, Routine (Pending):    No growth to date. 
___ 7:00 am BLOOD CULTURE
   Blood Culture, Routine (Pending):    No growth to date. 
___ 7:10 am BLOOD CULTURE      SET#2. 
   Blood Culture, Routine (Pending):    No growth to date. 
___ 10:30 am BLOOD CULTURE
   Blood Culture, Routine (Pending): 

==============
Discharge Labs
==============
___ 07:25AM BLOOD WBC-6.6 RBC-4.36* Hgb-13.5* Hct-40.9 
MCV-94 MCH-31.0 MCHC-33.0 RDW-11.6 RDWSD-39.8 Plt ___
___ 07:25AM BLOOD Glucose-89 UreaN-14 Creat-0.9 Na-143 
K-4.1 Cl-102 HCO3-29 AnGap-12
___ 07:25AM BLOOD Calcium-9.0 Phos-4.1 Mg-2.1

==============
Imaging
==============
CTA CHEST ___
1. Multiple bilateral subsegmental pulmonary embolisms involving 
right upper, right lower, left upper and left lower lobes. 
2. Suspect subsegmental atelectasis seen in the left lower lobe, 
right lower lobe and lingula.  Given the spread pulmonary 
embolisms pulmonary infarction cannot be excluded, particularly 
of concern is an area of opacification in the right lower lobe 
and lingula which do not demonstrate definite parenchymal 
enhancement. 
3. Small bilateral pleural effusions greater on the left. 

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
========================
___ year old gentleman with no significant hx (but little history 
of medical care) presenting with SOB and chest pain, found to 
have multiple subsegmental PEs without clear provocation. 

=================
ACUTE ISSUES
=================
# Chest pain
# PE
# SOB
# Hypoxia
Patient presented with bilateral subsegmental PE involving right 
upper, right lower, left upper and left lower lobes without 
clear provoking factors other than prolonged driving ___ 
hours/day during work as a ___. No family history 
of hypercoagulability. No recent trauma or surgery. No known 
liver disease or other chronic disease, LFTS were WNL. Denies 
IBD sx. Note patient does have history of significant alcohol 
consumption although does not appear synthetic function is 
wildly deranged based on albumin; LFT also WNL. 

Patient initially presented with SOB but hemodynamically stable 
throughout his stay and never had an oxygen requirement, with 
ambulatory O2 sat >95% on room air. Troponins negative, BNP only 
mildly elevated at 242. Started on heparin drip in ED, but then 
ultimately transitioned to rivaroxaban 15 mg BID with meals. 
This should be continued x 21 days, ___, then 20 mg daily. 
The duration should be at least 3 months but this decision can 
be made in collaboration with his new PCP. We submitted 
___ prior authorization x 6 months, filled at ___ 
___. Note that choice of rivaroxaban was for ease of dosing 
after first 21 days as it is once daily medication; warfarin was 
not compatible with patient's life style given frequent INR 
checks. Cancer screening (PSA, colonoscopy) was also deferred to 
the outpatient setting. 

Of note, OT assisted in evaluating patient with regard to 
medication management given history of lack of follow up and 
some question about overall function at home (see social section 
below); MOCA ___ and he was able to demonstrate safe use of 
new medications. 

# Pleural effusions
Thought to be probably secondary to PE. No e/o PNA, empyema, or 
other infection during his stay (no fevers/chills, cough, 
purulent sputum, leukocytosis explained by clot burden, time 
course with relatively acute onset not consistent with PNA). 
Considering other causes, no e/o heart failure, no e/o 
cirrhosis, rheumatologic ROS negative, no known TB risk factors. 
Would not want to miss malignant effusion, although no known 
malignancy. Cancer screening was deferred to the outpatient 
setting, will need to ensure close follow-up (patient has not 
regularly interacted with medical care). The effusion was felt 
to be too small to tap.

# Coagulase negative staph in BCx: 
___ bottles with coag-neg in clusters seen on ___ BCx, isolated 
in only one set in past 5 days. He was initially started on 
vancomycin, but this was stopped since it was felt most likely 
to be a contaminant- patient was afebrile without leukocytosis 
throughout stay, coag neg staph grew after 24 hours, and 
subsequent blood cultures were negative. 

# EtOH use
# Risk of withdrawal
The patient reports he drinks 4 beers/day. He denies history of 
withdrawal or complications. No e/o same on admission and the 
patient reported it had been >48 hrs since his last drink. He 
was initially on a CIWA protocol during his stay but required no 
medication for withdrawal. Please consider further alcohol 
cessation counseling as an outpatient.

# Hypertension
Patient with SBP in 130s-180s in ED and on floor. The HTN was 
felt likely to be chronic and exacerbated by pain. He was 
started on HCTZ 25 mg the day prior to discharge with some 
improvement in his BPs (choice of HCTZ over chlorthalidone was 
___ pricing). Initially considered amlodipine but there is 
moderate CYP interaction with rivaroxaban. Note UPr/Cr 0.1, 
urine albumin pending at discharge.

# Leukocytosis (resolved)
The patient presented with an elevated WBC. This was felt to be 
consistent with his large known clot burden, not a marker of 
infection. This resolved by the day after admission. 

# Social/insurance: 
Patient was without benefits from ___ at admission. He 
had previously been denied due to having too much savings to 
qualify. Financial counseling helped the patient to complete a 
new ___ application. In addition, patient's ___ was 
condemned during his stay and he was not allowed to live there 
until repairs were been made. Social work was consulted and 
helped him work through these challenges. ___ 
___ also visited the hospital inpatient and had further 
discussions with patient regarding safety. At time of discharge, 
patient informs us that his secondary HCP ___ has made 
arrangements for contractors to go to his home to begin required 
work. After discharge, he plans on staying at a motel while 
repairs are being made on his home. We contacted his primary and 
secondary health care proxies ___ and ___ 
___ who believe this is a feasible plan. In the short 
term, he may also be able to stay on ___ couch. Patient was 
also provided with Lyft as transportation to his car.

=====================
CHRONIC ISSUES
=====================
# GERD: Patient reports history of GERD sx. He was written for 
calcium carbonate during his stay.

=======================
TRANSITIONAL ISSUES
=======================
# Bilateral subsegmental pulmonary emboli
- Patient started on rivaroxaban 15mg BID x 21d (___), 
then rivaroxaban 20 mg daily for at least 3 months 
[] Please help patient with prescription and adjust duration of 
therapy as appropriate
[] Age appropriate cancer screening as an outpatient: 
colonoscopy, discuss PSA

# Pleural effusions
[] Consider imaging to verify resolution of effusions as 
appropriate

# EtOH use
# Risk of withdrawal
[] Please continue to counsel patient regarding risks of alcohol 
use

# Hypertension
[] Patient started on HCTZ 25mg daily, SBP on discharge 120-150, 
please titrate as needed
[] Recheck Chem-7 at PCP follow up appointment; Cr on discharge 
0.9

# Social situation
- Patient's home condemned during stay. Protective services 
involved. 
- FYI: emergency contact below is former ___ case manager and 
friend of patient, helping him work through these issues. 

# Emergency contact: ___ ___ 
# Code: Full, confirmed
 
Medications on Admission:
None
 
Discharge Medications:
1.  Hydrochlorothiazide 25 mg PO DAILY 
RX *hydrochlorothiazide 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Rivaroxaban 15 mg PO BID 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) ___ tablets(s) 
by mouth twice a day Disp #*1 Dose Pack Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary embolism
Pleural effusions
Question of Coagulopathy
Coagulase negative staph growing in blood culture
Leukocytosis
Risk of alcohol withdrawal
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================  
DISCHARGE INSTRUCTIONS  
======================  

Dear Mr. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
You were in the hospital because you had shortness of breath and 
chest pain. You were found to have blood clots in your lungs 
(pulmonary embolism). 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
While you were in the hospital you were evaluated by a chest CT 
scan which showed the blood clots in your lungs. You were 
started on anticoagulation medication (rivaroxaban or Xarelto) 
to thin your blood. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
You should continue to take your new medications (rivaroxaban 
and HCTZ) as prescribed. You should follow-up at the appointment 
made for you with your new primary care physician (___). 

We wish you the best!

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___